US08357709B2
methyl 1-benzyl-5-methyl-2-oxopyrrolidine-3-carboxylate (A-2)
A solution of A-1 (7.2 g, 38.0 mmol) at −78° C. in THF (100 ml) was treated with 38.0 ml (76 mmol) of a 2.0 M solution of LDA in heptane/THF/ethylbenzene. After stirring for 30 minutes at −78° C., 6.85 g (76 mmol) of dimethyl carbonate was added and the solution was warmed to room temperature and allowed to stir for 6 hours. The reaction was quenched with 1M aqueous HCl and extracted three times with EtOAc. The combined organic extracts were washed with water, brine, dried over MgSO4, filtered and concentrated by rotary evaporation. The residue was purified on silica gel with EtOAc in hexanes to provide a mixture of diastereomers A-2 as an amber oil. The mixture was carried through the following sequence without separation. Data for A-2: LC/MS rt=1.62 min; m/z (M+H)=248.0 found: 248.1 required.

reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | dimethyl carbonate | 76 mmol, 6.85 g | C(OC)(OC)=O | C3H6O3
reactant | heptane THF ethylbenzene | CCCCCCC.C1CCOC1.C(C)C1=CC=CC=C1
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | methyl 1-benzyl-5-methyl-2-oxopyrrolidine-3-carboxylate | C(C1=CC=CC=C1)N1C(C(CC1C)C(=O)OC)=O | C14H17NO3
